US04501890
A reaction mixture was prepared from 4.18 g. of trans-(±)-1-cyano-6-oxodecahydroquinoline, 5.0 g. of tris-dimethylaminomethane and 50 ml. of toluene. The reaction mixture was refluxed under nitrogen temperature for five hours and then was concentrated in vacuo. Five and seventy-six hundredths grams of a crude yellow solid comprising trans-(±)-1-cyano-6-oxo-7-dimethylaminomethylenedecahydroquinoline were obtained. This crude product was mixed with 2.25 g. of guanidine carbonate in 100 ml. of anhydrous methanol. This reaction mixture was heated to reflux under nitrogen overnight, and was then concentrated in vacuo. The resulting solid residue was triturated with hot methanol and filtered. The filter cake was washed twice with methanol and once with ether. A yield of 4.11 g. (78%) of trans-(±)-2-amino-6-cyano-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline were obtained having the following physical characteristics. Mass spectrum, molecular ion at 229; infrared spectrum peaks at 3307.18, 3157.70, 2202.87, 1660.83, 1599.10, 1564.38, 1486.26.

reactant | trans-(±)-1-cyano-6-oxodecahydroquinoline | C(#N)N1CCC[C@@H]2CC(CC[C@@H]12)=O | C10H14N2O
reactant | tris-dimethylaminomethane | CN(C)C(N(C)C)N(C)C | C7H19N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | trans-(±)-1-cyano-6-oxo-7-dimethylaminomethylenedecahydroquinoline | C(#N)N1CCC[C@@H]2CC(C(C[C@@H]12)=CN(C)C)=O | C13H19N3O
